US05489600
1-Oxododecyl-4-hydroxypiperidine
Mix 1-oxododecyl-4-(O-tert-butyldimethylsilyloxy)piperidine (3.5 mmol) with a solution of acetic acid (9 mL), tetrahydrofuran (6 mL) and water (6 mL). Heat at 75° C. overnight. Cool to room temperature and make basic with 10% sodium hydroxide and extract into methylene chloride. Wash with water, then with brine and dry (Na2SO4). Evaporate the solvent in vacuo and purify by flash chromatography (5% methanol/methylene chloride) to give the title compound. 587E-115

reactant | 1-oxododecyl-4-(O-tert-butyldimethylsilyloxy)piperidine | 3.5 mmol | O=C(CCCCCCCCCCC)N1CCC(CC1)O[Si](C)(C)C(C)(C)C | C23H47NO2Si
reactant | acetic acid | 9 mL | C(C)(=O)O | C2H4O2
reactant | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 6 mL | O | H2O
product | 1-Oxododecyl-4-hydroxypiperidine | O=C(CCCCCCCCCCC)N1CCC(CC1)O | C17H33NO2
